US06090852
(b) N-Hydroxy-2-({methyl[(4'-chlorobiphen-4-yl)methyl]amino}-sulfonyl)acetamid
In a manner similar to Example 1 (b), methyl-2-({methyl[(4'-chlorobiphenyl-4-yl)methyl]amino}sulfonyl)acetate was reacted with hydroxylamine to give the title compound as a colourless solid.

reactant | methyl-2-({methyl[(4'-chlorobiphenyl-4-yl)methyl]amino}sulfonyl)acetate | COC(CS(=O)(=O)N(CC1=CC=C(C=C1)C1=CC=C(C=C1)Cl)C)=O | C17H18ClNO4S
reactant | hydroxylamine | NO | H3NO
product | N-Hydroxy-2-({methyl[(4'-chlorobiphen-4-yl)methyl]amino}-sulfonyl)acetamid | ONC(CS(=O)(=O)N(CC1=CC=C(C=C1)C1=CC=C(C=C1)Cl)C)=O | C16H17ClN2O4S
